US06844362B2
Methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-2-carboxylate
A solution of 1-tert-butyl 2-methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-1,2-dicarboxylate (Preparation 16, 20.48 g, 46.9 mmol) was treated with 4M hydrogen chloride in methanol and the resulting solution left to stir at room temperature for 16 hours and then heated at 50° C. for a further 2 hours. The solvent was removed in vacuo to give a solid which was crystallised from a mixture of methanol (125 ml) and diisopropylether (50 ml) to give the title compound as a colourless crystalline solid (9.34 g, d.e.>98% as determined by 1H NMR).

reactant | 1-tert-butyl 2-methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-1,2-dicarboxylate | 46.9 mmol, 20.48 g | C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC)C | C26H32N2O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | CO | CH4O
product | Methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-2-carboxylate | 9.34 g | C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C | C21H24N2O2
